US04940662
In 2.5 liters of water containing 85 g of sodium carbonate and 26 g of sodium hydrogen carbonate, were dissolved 33 g of papain and 3.3 g of L cysteine as a papain activator. With stirring, 1 kg of a commercial soybean protein (manufactured and sold by Fuji Seiyu K.K. under trade name "Fujipro R") in limited amounts was added to the solution and thoroughly mixed and agitated. Separately, a suspension of 50 g of L-methionine in 320 ml of ethyl alcohol was gradually added to 35 ml of conc. sulfuric acid to completely dissolve the methionine. The solution was heated under reflux at 90° C. for 5 hours, obtaining a reaction solution of L-methionine ethyl ester in an yield of 92.3%. The reaction solution was diluted with ethyl alcohol to a volume of 500 ml. A 370-ml portion of the diluted reaction solution was added to the separately prepared protein system. After thorough mixing and agitation, the solution was kept at 37° C. for 24 hours to effect plastein reaction. The yield of L methionine incorporated in the thus produced protein-like material was 88.1% based on the amount of L-methionine ethyl ester added at the start of the reaction. The reaction solution was then diluted with water to a volume of 20 liters and adjusted to pH 6-7 with hydrochloric acid before it was subjected to repeated concentration operations for desalting and purification using a reverse osmosis membrane (tubular type, manufactured by Daicell Chemical K.K. under tradename DRS-10) under an operating pressure of 15 kg/cm2. The concentrate resulting from the reverse osmosis treatment was again diluted with water to a volume of 20 liters and adjusted to pH 3 with phosphoric acid. Then, 20 g of orientase (manufactured by Hankyu Kyoei Bussan K.K.) and 20 g of molsin (manufactured by Fujisawa Chemicals K.K.) were added to the solution, which was kept at 40° C. for 40 hours to effect hydrolysis. During the reaction, the solution was controlled to pH 3 with a 6N phosphoric acid. At the end of the reaction, the solution was heated to 90° C. for 10 minutes to deactivate the proteases. The solids were removed by filtration, and the filtrate was spray dried to yield 685 g of a dry powder, which was a low-molecular weight peptide mixture having L-methionine replenished in the form of an acid residue. The low-molecular weight peptide mixture was found to have an average molecular weight of 320. A sample of the powder was subjected to gel filtration using Cephadex G-10 to find that 87.3% of the sample had a molecular weight of 700 or lower. It was also found that the content of free amino acids was 9.8%. Table 1 shows the amino acid composition of the starting soybean protein and low-molecular weight peptide mixture produced therefrom.

reactant | sodium hydrogen carbonate | 26 g | C(O)([O-])=O.[Na+]
reactant | cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | L-methionine | 50 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 2.5 liters, 85 g | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl alcohol | 320 ml | C(C)O | C2H6O
product | L-methionine ethyl ester | yield of 92.3% | C(C)OC([C@@H](N)CCSC)=O | C7H15NO2S
